US08044213B2
A mixture of 0.060 g (0.12 mmole) of 2-[5-(4-methyl-piperazin-1-ylmethyl)-2-nitro-phenylamino]-4-(2-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid amide (VI.17c) in 7 mL of formic acid and 0.007 g of 10% palladium on carbon catalyst was stirred under an atmosphere of hydrogen for 18 hours. The mixture was filtered through a pad of Diatomaceous earth, washing the filter pad with dichloromethane. The filtrate was concentrated under reduced pressure. The residue was diluted with dichloromethane and saturated sodium bicarbonate. The organic layer was washed with brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure. Purification of the residue by silica gel chromatography, eluting with dichloromethane-methanol (gradient 100:0-75:25) gave 0.034 g of 2-[6-(4-methyl-piperazin-1-ylmethyl)-benzoimidazol-1-yl]-4-(2-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid amide (I.17) as a white solid. MH+/Z=501

reactant | 2-[5-(4-methyl-piperazin-1-ylmethyl)-2-nitro-phenylamino]-4-(2-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid amide | 0.12 mmole, 0.060 g | CN1CCN(CC1)CC=1C=CC(=C(C1)NC=1SC(=C(N1)C1=C(C=CC=C1)C(F)(F)F)C(=O)N)[N+](=O)[O-] | C23H23F3N6O3S
reactant | formic acid | 7 mL | C(=O)O | CH2O2
catalyst | palladium on carbon | 0.007 g | [Pd] | Pd
product | 2-[6-(4-methyl-piperazin-1-ylmethyl)-benzoimidazol-1-yl]-4-(2-trifluoromethyl-phenyl)-thiazole-5-carboxylic acid amide | 0.034 g | CN1CCN(CC1)CC=1C=CC2=C(N(C=N2)C=2SC(=C(N2)C2=C(C=CC=C2)C(F)(F)F)C(=O)N)C1 | C24H23F3N6OS
